US06451804B1
To a solution of 7-(trans-4-aminocyclohexylamino)-3-(2-chlorophenyl)-1-[2-(trimethylsilyl)ethoxymethyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (500 mg, 1.04 mmol) in 5 mL of dicloromethane were added triethylamine (0.29 mL, 0.207 mmol) and a solution of methane sulfonic anhydride (0.2 g, 1.14 mmol) in 5 mL of dichloromethane. The reaction mixture was stirred at room temperature for 24 hours, diluted with ethyl acetate, and washed with aqueous 10% sodium bicarbonate. The organic extracts were concentrated in vacuo, and purified by chromatography using 2% methanol/dichloromethane to 3% methanol/dichloromethane as eluant to give 292 mg of 3-(2-chlorophenyl)-7-[trans-4-(methanesulfonylamino)cyclohexylamino]-1-[2-(trimethylsilyl)ethoxymethyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white foam. (MH+=581)

reactant | 7-(trans-4-aminocyclohexylamino)-3-(2-chlorophenyl)-1-[2-(trimethylsilyl)ethoxymethyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.04 mmol, 500 mg | N[C@@H]1CC[C@H](CC1)NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)COCC[Si](C)(C)C | C24H35ClN6O2Si
reactant | triethylamine | 0.207 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonic anhydride | 1.14 mmol, 0.2 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dicloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-chlorophenyl)-7-[trans-4-(methanesulfonylamino)cyclohexylamino]-1-[2-(trimethylsilyl)ethoxymethyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 292 mg | ClC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)N[C@@H]1CC[C@H](CC1)NS(=O)(=O)C)COCC[Si](C)(C)C)=O | C25H37ClN6O4SSi
